US09301951B2
Intermediate 71b: 2-(2-amino-5-(piperidin-1-yl)phenyl)-N-(3,4-dimethylphenyl)pyridin-4-amine
Into a 50-mL 3-necked round bottom flask, was placed a solution of N-(3,4-dimethylphenyl)-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridin-4-amine (300 mg, 0.75 mmol, 1.00 equiv) in tetrahydrofuran/EtOH (10/1 mL), Zn (485 mg, 7.46 mmol, 10.00 equiv), and acetic acid (1 mL). The resulting solution was stirred for 30 min at room temperature. The solids were filtered out. The solution was adjusted to pH 7-8 with sodium bicarbonate (aq). The resulting solution was extracted with 3×25 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 1×25 mL of brine, dried over sodium sulfate, and concentrated under vacuum. The product was obtained as 270 mg (97%) of a yellow solid.

reactant | N-(3,4-dimethylphenyl)-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridin-4-amine | 0.75 mmol, 300 mg, 1.00 equiv | CC=1C=C(C=CC1C)NC1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-] | C24H26N4O2
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran EtOH | 1 mL | O1CCCC1.CCO
catalyst | Zn | 7.46 mmol, 485 mg, 10.00 equiv | [Zn] | Zn
product | 2-(2-amino-5-(piperidin-1-yl)phenyl)-N-(3,4-dimethylphenyl)pyridin-4-amine | 270 mg, 97% | NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)NC1=CC(=C(C=C1)C)C | C24H28N4
